US09278968B2
To a solution of 400 mg of tert-butyl {(1R)-2-(benzyloxy)-1-[1-(2-cyanoethyl)-1H-tetrazol-5-yl]ethyl}carbamate in 10 ml of dichloromethane was added 0.9 ml of 1,8-diazabicyclo[5.4.0]undeca-7-ene, followed by stirring at room temperature for 2 hours. The reaction mixture was added to a mixture of ice and 1 M hydrochloric acid, followed by extraction with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and the solvent was then evaporated under reduced pressure to obtain 343 mg of tert-butyl [(1R)-2-(benzyloxy)-1-(2H-tetrazol-5-yl)ethyl]carbamate.

reactant | tert-butyl {(1R)-2-(benzyloxy)-1-[1-(2-cyanoethyl)-1H-tetrazol-5-yl]ethyl}carbamate | 400 mg | C(C1=CC=CC=C1)OC[C@@H](C1=NN=NN1CCC#N)NC(OC(C)(C)C)=O | C18H24N6O3
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 0.9 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl [(1R)-2-(benzyloxy)-1-(2H-tetrazol-5-yl)ethyl]carbamate | 343 mg | C(C1=CC=CC=C1)OC[C@@H](C=1N=NNN1)NC(OC(C)(C)C)=O | C15H21N5O3
